US09382255B2
6-[2-(Pentan-3-ylidene)hydrazino]pyrimidin-4-ol
A mixture comprising 5.0 g (39.6 mmol) 6-hydrazinopyrimidin-4-ol/6-hydrazinopyrimidin-4(1H)-one (CAS-No: 29939-37-5), 5.12 g pentan-3-one and 80.8 mL ethanol was heated under reflux for 2 hours. After cooling to 3° C., the precipitated solid was filtered off and washed with diethyl ether to give 5.82 g (72%) of the title compound.

reactant | 6-hydrazinopyrimidin-4-ol 6-hydrazinopyrimidin-4(1H)-one | 39.6 mmol, 5.0 g | N(N)C1=CC(=NC=N1)O.N(N)C1=CC(N=CN1)=O | 2C4H6N4O
reactant | pentan-3-one | 5.12 g | CCC(CC)=O | C5H10O
solvent | ethanol | 80.8 mL | C(C)O | C2H6O
product | 6-[2-(Pentan-3-ylidene)hydrazino]pyrimidin-4-ol | 5.82 g, 72% | CCC(CC)=NNC1=CC(=NC=N1)O | C9H14N4O
